US08247429B2
N-[2-(1-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide
To a solution of ethyl 9-(2-aminoethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (45.0 mg, 0.165 mmol) in tetrahydrofuran (1.7 mL) was added 1.5M diisobutylaluminum hydride toluene solution (1.3 mL, 1.95 mmol) at room temperature, and the mixture was stirred for 3 hr. Sodium sulfate decahydrate (1.3 g) was added, and the mixture was filtered through celite, and the filtrate was concentrated under reduced pressure. To a mixture of the residue and triethylamine (34.5 μL, 0.248 mmol) in tetrahydrofuran (1.7 mL) was added acetic anhydride (23.4 μL, 0.248 mmol) under ice-cooling, and the mixture was stirred at room temperature for 15 min. Water (50 μL) was added, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) and recrystallization (ethyl acetate/diisopropyl ether) to give the title compound (7.3 mg, yield 17%).

reactant | ethyl 9-(2-aminoethyl)-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.165 mmol, 45.0 mg | NCCC1CCC2=C1C=1N(C=C2)N=CC1C(=O)OCC | C15H19N3O2
reactant | diisobutylaluminum hydride toluene | 1.95 mmol, 1.5M, 1.3 mL | C1(=CC=CC=C1)C.[H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate decahydrate | 1.3 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | 0.248 mmol, 34.5 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.248 mmol, 23.4 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 1.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.7 mL | O1CCCC1 | C4H8O
solvent | Water | 50 μL | O | H2O
product | N-[2-(1-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]acetamide | 7.3 mg, yield 17% | CC=1C=NN2C1C1=C(C=C2)CCC1CCNC(C)=O | C15H19N3O
